US05959113
A solution of 25 g of 1-(4-chlorophenyl)-2-pyridin-4-yl-ethanone in 285 ml of dioxan was treated with 20 g of selenium dioxide. The mixture was stirred at 100° C. for 1 hour and filtered. The solvent was evaporated and the residue was dissolved in dichloromethane. The solution was washed three times with water, dried over anhydrous magnesium sulphate and evaporated. The residue was dissolved in ethyl acetate, the solution was filtered over silica gel and evaporated to yield 23.7 g of 1-(4-chlorophenyl)-2-pyridin-4-yl-ethanedione, m.p. 119-120° C.

reactant | 1-(4-chlorophenyl)-2-pyridin-4-yl-ethanone | 25 g | ClC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C13H10ClNO
reactant | selenium dioxide | 20 g | [Se](=O)=O | O2Se
solvent | dioxan | 285 ml | O1CCOCC1 | C4H8O2
product | 1-(4-chlorophenyl)-2-pyridin-4-yl-ethanedione | 23.7 g | ClC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)=O | C13H8ClNO2
